// Generated for: spectre
// Generated on: Feb 19 16:39:06 2026
// Design library name: ese6680
// Design cell name: Test_Opamp_Hw3_CMRR
// Design view name: schematic
simulator lang=spectre
global 0
parameters vac=1 vdc=2.5
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ese6680
// Cell name: hw3_2stage_opamp
// View name: schematic
subckt hw3_2stage_opamp GND VDD Vin\+ Vin\- Vout
    M2 (net11 Vin\+ net09 VDD) ami06P w=109.95u l=3u as=1.64925e-10 \
        ad=1.64925e-10 ps=222.9u pd=222.9u m=1 region=sat
    M1 (net3 Vin\- net09 VDD) ami06P w=109.95u l=3u as=1.64925e-10 \
        ad=1.64925e-10 ps=222.9u pd=222.9u m=1 region=sat
    M7 (Vout net019 VDD VDD) ami06P w=268.05u l=2.4u as=4.02075e-10 \
        ad=4.02075e-10 ps=539.1u pd=539.1u m=1 region=sat
    M5 (net09 net019 VDD VDD) ami06P w=36.6u l=1.2u as=5.49e-11 \
        ad=5.49e-11 ps=76.2u pd=76.2u m=1 region=sat
    M8 (net019 net019 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M6 (Vout net11 GND GND) ami06N w=55.05u l=1.8u as=8.2575e-11 \
        ad=8.2575e-11 ps=113.1u pd=113.1u m=1 region=sat
    M4 (net11 net3 GND GND) ami06N w=17.55u l=3u as=2.6325e-11 \
        ad=2.6325e-11 ps=38.1u pd=38.1u m=1 region=sat
    M3 (net3 net3 GND GND) ami06N w=17.55u l=3u as=2.6325e-11 \
        ad=2.6325e-11 ps=38.1u pd=38.1u m=1 region=sat
    C1 (net22 Vout) capacitor c=1p m=1
    C0 (Vout GND) capacitor c=2p m=1
    RC (net11 net22) resistor r=1.2K m=1
    I0 (net019 GND) isource type=dc dc=60u m=1
ends hw3_2stage_opamp
// End of subcircuit definition.

// Library name: ese6680
// Cell name: Test_Opamp_Hw3_CMRR
// View name: schematic
V1 (net3 0) vsource type=dc dc=5
V0 (net1 0) vsource type=dc dc=2.5 mag=1
V2 (net2 0) vsource type=dc dc=2.5 mag=1
I0 (0 net3 net1 net2 Vout) hw3_2stage_opamp
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=10 stop=100G dec=100 annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
